US04129591
Approximately 76 g. of 1-amino-3,6-naphthalenedisulfonic acid is added to a solution of 22 g of sodium hydroxide in 100 ml of water. This solution is treated with charcoal filtered through diatomaceous earth and washed with sufficient water to bring the combined filtrate and washings to 200 ml. The filtrate is diluted to 1000 ml with ethanol and after standing the resulting solid is filtered and washed with absolute ethanol and twice with ether. The product is dried overnight giving 1-amino-3,6-naphthalenedisulfonic acid disodium salt.

reactant | 1-amino-3,6-naphthalenedisulfonic acid | NC1=CC(=CC2=CC(=CC=C12)S(=O)(=O)O)S(=O)(=O)O | C10H9NO6S2
reactant | sodium hydroxide | 22 g | [OH-].[Na+]
reactant | charcoal | C | CH4
solvent | water | 100 ml | O | H2O
product | 1-amino-3,6-naphthalenedisulfonic acid disodium salt | [Na+].[Na+].NC1=CC(=CC2=CC(=CC=C12)S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C10H9NO6S2.2Na/c11-10-5-8(19(15,16)17)4-6-3-7(18(12,13)14)1-2-9(6)10;;/h1-5H,11H2,(H,12,13,14)(H,15,16,17);;/q;2*+1/p-2
